US07723367B2
2-(4-Trifluoromethoxy-phenyl)-nicotinonitrile
Prepared in 70% yield from 2-chloro-3-cyanopyridine and 4-trifluoromethoxyphenylboronic acid according to the procedure described for Example 153A. MS (ESI−) m/z 265.0 (M+H)+; 1H NMR (CDCl3) δ 7.37-7.44 (m, 3H), 7.98-8.03 (m, 2H), 8.10 (dd, J=8.0, 1.9 Hz, 1H), 8.89 (dd, J=4.7, 1.7 Hz, 1H).

reactant | 2-chloro-3-cyanopyridine | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | 4-trifluoromethoxyphenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | 2-(4-Trifluoromethoxy-phenyl)-nicotinonitrile | 70% yield | FC(OC1=CC=C(C=C1)C1=C(C#N)C=CC=N1)(F)F | C13H7F3N2O
